US05952497
Bpoc-Asn(Trt)--OH: H-Asn(Trt)--OH was prepared according to the procedure of Sieber and Riniker (40) with the following modifications. H-Asn-OH (13.2 g, 0.1 mol), trityl alcohol (52 g, 0.2 mol), conc. H2SO4 (6.1 mL, 0.115 mol) were suspended in glacial acetic acid (300 mL) for 10 min. Acetic anhydride (9 mL, 0.2 mol) was added and the reaction was heated to 60° C. After 4 h the solution was slowly added to cold water (600 mL) and adjusted to pH 6 by addition of 10 N NaOH. After 1 h at 0° C., white crystals were collected and washed thoroughly with water and toluene. Drying under vacuum for 24 h yielded white crystals (36 g, 94%). mp>240 dec., lit. >240 dec.

reactant | H-Asn-OH | 0.1 mol, 13.2 g | N[C@@H](CC(N)=O)C(=O)O | C4H8N2O3
reactant | trityl alcohol | 0.2 mol, 52 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)O | C19H16O
reactant | H2SO4 | 0.115 mol, 6.1 mL | OS(=O)(=O)O | H2O4S
reactant | Acetic anhydride | 0.2 mol, 9 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | NaOH | 10 N | [OH-].[Na+]
solvent | acetic acid | 300 mL | C(C)(=O)O | C2H4O2
solvent | water | 600 mL | O | H2O
product | H-Asn(Trt)--OH | C1=CC=C(C=C1)C(C2=CC=CC=C2)(C3=CC=CC=C3)NC(=O)C[C@@H](C(=O)O)N | C23H22N2O3
